US08222286B2
To a suspension of (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid (225 mg, 0.599 mmol) in dichloromethane (4 mL) and saturated aqueous NaHCO3 (1 mL) was added triphosgene (178 mg, 0.599 mmol). After vigorously stirred for 10 min, the reaction mixture was diluted with EtOAc and partially concentrated under reduced pressure. Excess of triphosgene was quenched by adding saturated aqueous NaHCO3 and stirred for 0.5 hour. The mixture was extracted with EtOAc and washed with brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was dissolved in dichloromethane (5 mL). To the mixture were added triethylamine (0.167 mL, 1.197 mmol) and [1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-amine (197 mg, 0.898 mmol) and stirred at 45° C. overnight. Additional triethylamine (0.167 mL, 1.197 mmol) and [1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-amine (197 mg, 0.898 mmol) were added and stirred at 45° C. for 30 hours. The reaction mixture was concentrated under reduced pressure and purified by silica gel column chromatography (eluent: 10% MeOH in DCM) to give (S)-2-((S)-2-(3′-chloro-biphenyl-4-yl)-1-{[1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-carbamoyl}-ethylamino)-propionic acid ethyl ester (261 mg). MS: m/z (MH+) 577; HPLC retention time 1.36 min (HPLC condition C).

reactant | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid | 0.599 mmol, 225 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)N[C@@H](C)C(=O)OCC | C20H22ClNO4
reactant | triphosgene | 0.599 mmol, 178 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 1.197 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
reactant | [1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-amine | 0.898 mmol, 197 mg | COC1=CC=C(CN2N=NN=C2NC)C=C1 | C10H13N5O
reactant | triethylamine | 1.197 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
reactant | [1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-amine | 0.898 mmol, 197 mg | COC1=CC=C(CN2N=NN=C2NC)C=C1 | C10H13N5O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-((S)-2-(3′-chloro-biphenyl-4-yl)-1-{[1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-carbamoyl}-ethylamino)-propionic acid ethyl ester | 261 mg | C(C)OC([C@H](C)N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)C(N(C)C1=NN=NN1CC1=CC=C(C=C1)OC)=O)=O | C30H33ClN6O4
